US09447090B2
To 350 mg of 8-[(2-fluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-6-carboxylic acid were added 18 ml of ethanol and 200 μl of sulfuric acid, followed by heating to reflux overnight. Under reduced pressure, the solvent was removed by filtration to around one third of the amount thereof, and a saturated aqueous sodium hydrogen carbonate solution and chloroform were then added thereto to carry out a layer separation operation. The organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 330 mg of ethyl 8-[(2-fluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-6-carboxylate.

reactant | 8-[(2-fluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-6-carboxylic acid | 350 mg | FC1=C(COC=2C=3N(C=C(C2)C(=O)O)C=C(N3)C)C=CC=C1 | C16H13FN2O3
reactant | sulfuric acid | 200 μl | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 18 ml | C(C)O | C2H6O
product | ethyl 8-[(2-fluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-6-carboxylate | 330 mg | FC1=C(COC=2C=3N(C=C(C2)C(=O)OCC)C=C(N3)C)C=CC=C1 | C18H17FN2O3
